US07932256B2
A yellow solution of 2-methoxy-3-methyl-5-nitropyridine (68.8 g, 409 mmol) and tert-butyl 2-chloroacetate (77.0 g, 511 mmol) in THF (1 L) was stirred and cooled to −20° C. in a dry ice/isopropanol bath. Potassium tert-butoxide (115 g, 1.02 mol) was added at a rate so that the reaction temperature was less than −10° C. The reaction mixture turned dark purple. When the addition was complete, the cooling bath was removed and the reaction was stirred for 30 min. The stirred reaction mixture was quenched with HCl (500 mL, 2.4 N). The purple solution turned pale yellow and the mixture separated into two layers. The organic layer was separated, washed three times with brine, and concentrated in vacuo. Hexane was added to the amber residue. The mixture was concentrated in vacuo and then dried under high vacuum for 1 hr to give tert-butyl 2-(6-methoxy-5-methyl-3-nitropyridin-2-yl)acetate (83.4 g, 72% yield) as a tan solid: 1H NMR (400 MHz, CDCl3) δ 8.16 (s, 1H), 4.09 (s, 2H), 4.02 (s, 2H), 2.21 (s, 3H), 1.44 (s, 9H); 13C NMR (100 MHz, CDCl3) δ 168.81, 163.63, 147.88, 139.41, 135.19, 120.82, 81.66, 54.69, 44.48, 28.03, 15.27. An analytical sample was recrystallized from hexane to give white needles, mp 71-72.5° C. Anal. calcd. for C13H18N2O5: C, 55.31, H, 6.42, N, 9.92. Found: C, 55.52, H, 6.40, N, 9.84.

reactant | 2-methoxy-3-methyl-5-nitropyridine | 409 mmol, 68.8 g | COC1=NC=C(C=C1C)[N+](=O)[O-] | C7H8N2O3
reactant | tert-butyl 2-chloroacetate | 511 mmol, 77.0 g | ClCC(=O)OC(C)(C)C | C6H11ClO2
reactant | Potassium tert-butoxide | 1.02 mol, 115 g | CC(C)([O-])C.[K+]
solvent | THF | 1 L | C1CCOC1 | C4H8O
product | tert-butyl 2-(6-methoxy-5-methyl-3-nitropyridin-2-yl)acetate | 83.4 g, 72% yield | COC1=C(C=C(C(=N1)CC(=O)OC(C)(C)C)[N+](=O)[O-])C | C13H18N2O5
